US06844360B2
(S)-2-[(R)-5-(4-cyano-benzyl)-7-(3,5-dichloro-phenyl)-5-methyl-6-oxo-6,7-dihydro-5H-imidazo[1,2-a]imidazole-3-sulfonylamino]-N-(2-hydroxy-ethyl)-propionamide
To a solution of above amine salt (0.043 g, 0.254 mmol) in anhydrous DMF, was added DMAP (0.037 g, 0.303 mmol). The reaction mixture was stirred at room temperature for 1 h. (R)-5-(4-cyano-benzyl)-7-(3,5-dichloro-phenyl)-5-methyl-6-oxo-6,7-dihydro-5H-imidazo[1,2-a]imidazole-3-sulfonyl chloride (0.036 g, 0.073 mmol) was then added to the reaction mixture and stirred for another 2 h. The reaction mixture was diluted with EtOAc and washed with 1 N HCl and saturated NaHCO3. The organic phase was dried over Na2SO4 and concentrated. The residue was purified by silica gel preparative thin layer chromatography to afford 0.035 g of the title compound as a white foam (M+1, 591.1).

reactant | (R)-5-(4-cyano-benzyl)-7-(3,5-dichloro-phenyl)-5-methyl-6-oxo-6,7-dihydro-5H-imidazo[1,2-a]imidazole-3-sulfonyl chloride | 0.073 mmol, 0.036 g | C(#N)C1=CC=C(C[C@@]2(C(N(C=3N2C(=CN3)S(=O)(=O)Cl)C3=CC(=CC(=C3)Cl)Cl)=O)C)C=C1 | C20H13Cl3N4O3S
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.303 mmol, 0.037 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | (S)-2-[(R)-5-(4-cyano-benzyl)-7-(3,5-dichloro-phenyl)-5-methyl-6-oxo-6,7-dihydro-5H-imidazo[1,2-a]imidazole-3-sulfonylamino]-N-(2-hydroxy-ethyl)-propionamide | 0.035 g | C(#N)C1=CC=C(C[C@@]2(C(N(C=3N2C(=CN3)S(=O)(=O)N[C@H](C(=O)NCCO)C)C3=CC(=CC(=C3)Cl)Cl)=O)C)C=C1 | C25H24Cl2N6O5S
